US07235537B2
Step A: 2-(2-Methoxy-ethoxy)-isoindole-1,3-dione
DEAD (10 mL, 63 mmol) is added to a mixture of 2-methoxyethanol (5.0 mL, 63 mmol), PPh3 (17 g, 63 mmol), and N-hydroxyphthalimide (10 g, 62 mmol) in THF (170 mL). The resulting orange solution is stirred 16 hours at room temperature. The reaction mixture is concentrated in vacuo, and the solids are filtered washing with CHCl3. The filtrate is concentrated again, and the solids are filtered washing with CHCl3. This process is repeated until no precipitate forms. The final yellowish solids are recrystallized from EtOH to give the desired product (7.7 g, 55%).

reactant | DEAD | 63 mmol, 10 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2-methoxyethanol | 63 mmol, 5.0 mL | COCCO | C3H8O2
reactant | PPh3 | 63 mmol, 17 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | N-hydroxyphthalimide | 62 mmol, 10 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
solvent | THF | 170 mL | C1CCOC1 | C4H8O
product | 2-(2-Methoxy-ethoxy)-isoindole-1,3-dione | 7.7 g, 55% | COCCON1C(C2=CC=CC=C2C1=O)=O | C11H11NO4
